US08686048B2
Intermediate 62: 3′-(ethylthio)-3,5-difluorobiphenyl-4-amine
The title compound (900 mg) was prepared from 4-bromo-2,6-difluoroaniline (1 g, 4.8 mmol) and 3-(ethylthio)phenylboronic acid (1.13 g, 6.24 mmol) as a colourless liquid.

reactant | 4-bromo-2,6-difluoroaniline | 4.8 mmol, 1 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-(ethylthio)phenylboronic acid | 6.24 mmol, 1.13 g | C(C)SC=1C=C(C=CC1)B(O)O | C8H11BO2S
product | 3′-(ethylthio)-3,5-difluorobiphenyl-4-amine | 900 mg | C(C)SC=1C=C(C=CC1)C1=CC(=C(C(=C1)F)N)F | C14H13F2NS
